US07179934B2
(2R,3R)-2,3-Dimethyl-hexanal
Pyridinium chlorochromate (27.35 g, 126.9 mmol) and neutral alumina (96 g, 3.5 g per gram of pyridinium chlorochromate) in dry dichloromethane (200 mL) was stirred under nitrogen for 0.25 hours. (2R,3R)-2,3-Dimethyl-hexan-1-ol (5.0 g, 38.46 mmol) in dichloromethane (60 mL) was added and the resulting dark slurry was stirred at room temperature for 3 hours. The slurry was filtered through a short pad of silica eluting with excess dichloromethane. Evaporation of the solvent afforded the titled compound (4.1 g, 84% yield) as an oil: 1H NMR (400 MHz, CDCl3) δ ppm 0.8 (m, 3H) 0.9 (d, J=6.6 Hz, 3 H) 1.0 (d, J=6.6 Hz, 3 H) 1.2 (m, 4 H) 1.8 (m, 1 H) 2.2 (m, 1 H) 9.6 (s, 1 H).

reactant | Pyridinium chlorochromate | 126.9 mmol, 27.35 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | (2R,3R)-2,3-Dimethyl-hexan-1-ol | 38.46 mmol, 5.0 g | C[C@@H](CO)[C@@H](CCC)C | C8H18O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (2R,3R)-2,3-Dimethyl-hexanal | 4.1 g, 84% yield | C[C@@H](C=O)[C@@H](CCC)C | C8H16O
